US06140100
A solution of 5.70 g of 3-amino-L-tyrosine (Aldrich) in 35 mL of 2.15 N aqueous HCl was cooled to 0° C. and treated with a solution of 1.41 g of NaNO2 (Aldrich) in 5 mL of water followed by 2.97 g of Na2CO3. After stirring at 0° C. for 7 min, the solution was slowly added (via an addition funnel) to a stirred mixture of 3.58 g of CuCN (Aldrich), 5.88 g of NaCN (Aldrich) and 5.72 g of Na2CO3 in 40 mL of water maintained at 75° C. in a 250 mL 3-necked flask equipped with a condenser. During the addition, vigorous evolution of nitrogen occurred and the reaction mixture changed color to dark red-orange. The reaction mixture was stirred at 75° C. for 2 h, heated to 95° C., and stirred for additional 1 h. After cooling to RT, the reaction mixture was acidified to pH=2.0 by addition of concentrated HCl via the addition funnel. The evolved gas was scrubbed through a 20% aqueous NaOH trap followed by a 5% NaOCl (Chlorox) trap . The mixture was filtered and the pH of the filtrate was adjusted to 6.0 with concentrated NH4OH. The brown solution was mixed with 300 mL of water and stirred with 300 g of DOWEX 50WX-8 ion exchange resin (acid form). The resin was filtered, washed with 1 L of water, mixed with 500 mL of water, and the mixture was basified to pH 11 by addition of concentrated NH4OH. The mixture was filtered and the filrate concentrated in vacuo to dryness. The dark brown residue was suspended in 20 mL of water and treated with enough 1 N aqueous NaOH to dissolve the solid. The pH was then adjusted to 6.0 by addition of 1 N aqueous HCl. A precipitate formed which was collected by filtration and dried in vacuo to afford 1.45 g (35%) of 3-cyano-L-tyrosine as a chocolate brown solid, m.p. >250° C. 1H-NMR: (200 MHz, DMSO-d6) δ 9.60-7.20 (br s. NH2), 7.39 (s, 1 H, aromatic CH), 7.30 (m, 1 H, aromatic CH), 6.98 (m, 1 H, aromatic CH), 3.52 (m, 1 H, methine), 2.92 (m, 2 H, ArCH2).

reactant | 3-amino-L-tyrosine | 5.70 g | NC=1C=C(C[C@H](N)C(=O)O)C=CC1O | C9H12N2O3
reactant | NaNO2 | 1.41 g | N(=O)[O-].[Na+]
reactant | Na2CO3 | 2.97 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | CuCN | 3.58 g | C(#N)[Cu]
reactant | NaCN | 5.88 g | [C-]#N.[Na+]
reactant | Na2CO3 | 5.72 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | HCl | 2.15 N, 35 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | 3-cyano-L-tyrosine | 1.45 g, 35% | C(#N)C=1C=C(C[C@H](N)C(=O)O)C=CC1O | C10H10N2O3
